US08802728B2
Stir a mixture of 3-(2-dimethylaminomethyl-bicyclo[3.2.1]oct-3-yl)-phenol (200 mg, 0.772 mmol), 2,2-dimethyl-propionyl chloride (111.6 mg, 0.927 mmol) and triethyl amine (234 mg, 2.316 mmol) in CH2Cl2 (40 mL) at ambient temperature for 12 hours. Concentrate the mixture under reduced pressure, and purify the residue by preparative TLC to afford 2,2-dimethyl-propionic acid 3-(2-dimethylaminomethyl-bicyclo[3.2.1]oct-3-yl)-phenyl ester as white solid (217 mg, Yield: 81.9%). MS (m/z): 344 (M+1). 1H NMR (400 MHz, Methanol-d4) δ 7.36-7.40 (t, J=13.6, 1H), 7.19-7.21 (d, J=7.2, 1H), 7.03 (s, 1H), 6.92-6.94 (d, J=8.0, 1H), 2.97-3.03 (t, J=23.6, 1H), 2.49-2.68 (m, 6H), 2.40-2.44 (d, J=13.2, 1H), 2.35 (s, 2H), 2.17-2.21 (m, 2H), 1.60-1.84 (m, 8H), 1.37 (s, 9H).

reactant | 3-(2-dimethylaminomethyl-bicyclo[3.2.1]oct-3-yl)-phenol | 0.772 mmol, 200 mg | CN(C)CC1C2CCC(CC1C=1C=C(C=CC1)O)C2 | C17H25NO
reactant | 2,2-dimethyl-propionyl chloride | 0.927 mmol, 111.6 mg | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | triethyl amine | 2.316 mmol, 234 mg | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 2,2-dimethyl-propionic acid 3-(2-dimethylaminomethyl-bicyclo[3.2.1]oct-3-yl)-phenyl ester | 217 mg, Yield: 81.9% | CN(C)CC1C2CCC(CC1C=1C=C(C=CC1)OC(C(C)(C)C)=O)C2 | C22H33NO2
